US09079880B2
Add lithium hydroxide (0.03 g, 1.3 mmol) to the crude 3-[(R)-2-(4-cyano-phenylcarbamoyl)-pyrrolidin-1-yl]-benzoic acid ethyl ester (0.05 g, 0.14 mmol) in a 1:1:1 mixture of water:MeOH/tetrahydrofuran (3 mL). Stir the mixture at room temperature for 15 h then wash with EtOAc. Adjust the pH of the aqueous phase to slightly acidic by the addition of a 2 N solution of hydrochloric acid. Extract the mixture with methylene chloride, dry the combined organic phase over anhydrous sodium sulfate and concentrate under a stream of nitrogen to provide 0.020 g of 3-[(R)-2-(4-cyano-phenylcarbamoyl)-pyrrolidin-1-yl]-benzoic acid as a yellow oil.

reactant | lithium hydroxide | 1.3 mmol, 0.03 g | [OH-].[Li+]
reactant | 3-[(R)-2-(4-cyano-phenylcarbamoyl)-pyrrolidin-1-yl]-benzoic acid ethyl ester | 0.14 mmol, 0.05 g | C(C)OC(C1=CC(=CC=C1)N1[C@H](CCC1)C(NC1=CC=C(C=C1)C#N)=O)=O | C21H21N3O3
reactant | water | O | H2O
solvent | MeOH tetrahydrofuran | 3 mL | CO.O1CCCC1
product | 3-[(R)-2-(4-cyano-phenylcarbamoyl)-pyrrolidin-1-yl]-benzoic acid | 0.020 g | C(#N)C1=CC=C(C=C1)NC(=O)[C@@H]1N(CCC1)C=1C=C(C(=O)O)C=CC1 | C19H17N3O3
